US07947738B2
(19-a) Methyl (2E)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)hepta-2,6-dienoate
Dimethyl sulfoxide (4.71 mL, 66.3 mmol) was added to a methylene chloride solution (70 mL) of oxalyl chloride (2.84 mL, 33.2 mmol) with stirring at −78° C., and the mixture was stirred at this temperature for 5 minutes. Then, a methylene chloride solution (30 mL) of 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)pent-4-en-1-ol (J. Chem. Soc., Perkin Trans. 1 1991, 2073) (5.10 g, 22.1 mmol) was added thereto. The mixture was stirred at this temperature for 15 minutes. Then, triethylamine (12.3 mL, 88.4 mmol) was added thereto, and the mixture was heated to room temperature and stirred. The mixture was separated into aqueous and organic layers by the addition of 0.1 M hydrochloric acid. The organic layer was washed with 0.1 M hydrochloric acid, water, and saturated saline and then dried over anhydrous magnesium sulfate. The residue was filtered and concentrated under reduced pressure, and the obtained residue was dissolved in toluene (50 mL). To the solution, (methoxycarbonylmethylene)triphenylphosphorane (11.1 g, 33.2 mmol) was added, and the mixture was stirred at room temperature for 4 hours and further stirred at 60° C. for 2 hours. The reaction solution was concentrated under reduced pressure, then filtered through Celite, and concentrated again under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (5.69 g, 91%).

reactant | Dimethyl sulfoxide | 66.3 mmol, 4.71 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 33.2 mmol, 2.84 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-({[tert-butyl(dimethyl)silyl]oxy}methyl)pent-4-en-1-ol | 22.1 mmol, 5.10 g | [Si](C)(C)(C(C)(C)C)OCC(CO)CC=C | C12H26O2Si
reactant | triethylamine | 88.4 mmol, 12.3 mL | C(C)N(CC)CC | C6H15N
reactant | (methoxycarbonylmethylene)triphenylphosphorane | 33.2 mmol, 11.1 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | Methyl (2E)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)hepta-2,6-dienoate | [Si](C)(C)(C(C)(C)C)OCC(/C=C/C(=O)OC)CC=C | C15H28O3Si
